US06121271
2-Cyclopentyl-4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol
To (2-benzyl4,5-dimethyl-thiophen-3-yl)-(3-cyclopentyl-4-methoxy-phenyl)-methanone (4.8 g, 11.7 mmol) in anhydrous methylene chloride (70 mL) at -78° C. under nitrogen was added dropwise over a period of 20 min boron tribromide (3.6 mL, 37.6 mmol). The reaction mixture was then allowed to stir at room temperature for 22 h. The solution was poured onto a mixture of ice and water (600 mL) and extracted with diethyl ether (800 mL). The diethyl ether layer was washed twice with water (500 mL) and once with brine (500 mL). Concentration under reduced pressure and chromatography with petroleum ether:ethyl acetate (97:3) gave the title compound as a white solid (3.4 g, 78%): mp 156-158° C.; (DMSO-d6) δ 9.48 (s, 1 H), 8.42 (s, 1 H), 7.93 (d, 1 H), 7.46-7.41 (m, 2 H), 7.35-7.30 (m, 1 H), 7.00 (s, 1 H), 6.95-6.90 (m, 2 H), 3.38-3.28 (m, 1 H), 2.39 (s, 3 H), 1.99-1.90 (m, 2 H), 1.68-1.47 (m, 6 H), 1.60 (s, 3 H). MS(EI): [M+] 372. Anal. Calc. for C25H24OS: C, 80.60, H, 6.49, N, 0.00. Found: C, 80.39, H, 6.43, N, 0.04.

reactant | (2-benzyl4,5-dimethyl-thiophen-3-yl)-(3-cyclopentyl-4-methoxy-phenyl)-methanone | 11.7 mmol, 4.8 g | C(C1=CC=CC=C1)C=1SC(=C(C1C(=O)C1=CC(=C(C=C1)OC)C1CCCC1)C)C | C26H28O2S
reactant | boron tribromide | 37.6 mmol, 3.6 mL | B(Br)(Br)Br | BBr3
reactant | water | 600 mL | O | H2O
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | 2-Cyclopentyl-4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol | 3.4 g, 78% | C1(CCCC1)C1=C(C=CC(=C1)C1=C2C=CC=CC2=CC=2SC(=C(C21)C)C)O | C25H24OS
